US09402833B2
K2CO3 (15.27 g, 110.6 mmol) was added to a solution of 5-fluoro-3-nitrobenzene-1,2-diol (5 g, 28.9 mmol) in DMF (35 mL) followed by the addition of 1,2-Dibromoethane (13.63 g, 6.25 mL, 72.5 mmol) and stirring was continued at 80° C. for 2 h. Reaction mixture was diluted with ethyl acetate, washed with cold water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude, which was purified by MPLC (silica gel, Mobile Phase: ethyl acetate in n-Hexane 0 to 5% as eluant) to afford 7-fluoro-5-nitro-2,3-dihydrobenzo[b][1,4]dioxine (Int-51) as pale yellow solid. 1H NMR (300 MHz, CDCl3) δ ppm 7.3-7.2 (1H, dd), 6.9-6.8 (1H, dd), 4.4 (4H, s).

reactant | K2CO3 | 110.6 mmol, 15.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-fluoro-3-nitrobenzene-1,2-diol | 28.9 mmol, 5 g | FC1=CC(=C(C(=C1)O)O)[N+](=O)[O-] | C6H4FNO4
reactant | 1,2-Dibromoethane | 72.5 mmol, 6.25 mL, 13.63 g | BrCCBr | C2H4Br2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-fluoro-5-nitro-2,3-dihydrobenzo[b][1,4]dioxine | FC=1C=C(C2=C(OCCO2)C1)[N+](=O)[O-] | C8H6FNO4
